### PR TITLE
Random variables, ensembles, and entanglement measures

### PR DESCRIPTION
**Pull request by Megaleo**
Main additions, in dependence order:
- `RandVar`: Random variable. In `Distribution.lean`.
- `MEnsemble` and `PEnsemble`: Ensemble of mixed and pure states, respectively. In `MState.lean`.
- `Entanglement.lean`, focused on entanglement measures.

I also changed / added miscellaneous things not related to these new definitions and their basic theorems, which are described in the commits of the PR.

Let me know if there is something wrong with the overall organization of the code, especially with naming conventions.

### CODE REVIEW

File: ClassicalInfo/Distribution.lean [hunk 1]
```diff
@@ -144,4 +151,120 @@ def relabel (d : Distribution α) (σ : β ≃ α) : Distribution β :=
...
+
+/-- A `T`-valued random variable over `α` is a map `var : α → T` along
+with a probability distribution `distr : Distribution α`. -/
+structure RandVar (α : Type*) [Fintype α] (T : Type*) where
+  var : α → T
+  distr : Distribution α
+
+instance instFunctor : Functor (RandVar α) where map f e := ⟨f ∘ e.1, e.2⟩
+
+instance instLawfulFunctor : LawfulFunctor (RandVar α) where
```
Comment (Timeroot) [inline ClassicalInfo/Distribution.lean:191]: I'm not much of a category theorist -- is this used later? Or just kind of for fun (or sanity-checking)?

File: ClassicalInfo/Distribution.lean [hunk 2]
```diff
@@ -144,4 +151,120 @@ def relabel (d : Distribution α) (σ : β ≃ α) : Distribution β :=
...
+  comp_map _ _ _ := by rfl
+
+-- `U` is required to be a group just because mix below uses Convex.sum_mem,
+-- but it should be provable with just `AddCommMonoid U`
+variable {T U : Type*} [AddCommGroup U] [Module ℝ U] [inst : Mixable U T]
+
+/-- `Distribution.exp_val` is the expectation value of a random variable `X`. Under the hood,
+it is the "convex combination over a finite family" on the type `T`, afforded by the `Mixable` instance,
+with the probability distribution of `X` as weights. -/
+def exp_val (X : RandVar α T) : T := by
```
Comment (Timeroot) [inline ClassicalInfo/Distribution.lean:203]: Can we rename this (and related theorems) to `expect_val` etc? To me, `exp` is always going to exponential / `e ^ ...`; and there's `Finset.expect` (which computes the (unweighted) average)

File: QuantumInfo/Finite/Braket.lean [hunk 3]
```diff
@@ -112,6 +112,80 @@ theorem Bra.eq_conj (ψ : Ket d) (x : d) :〈ψ∣ x = conj (∣ψ〉 x) :=
 theorem Bra.apply' (ψ : Ket d) (i : d) : 〈ψ∣ i = conj (ψ.vec i) :=
   rfl
 
+/-- Ket form by the superposition of all elements in `d`.
```
Comment (Timeroot) [inline QuantumInfo/Finite/Braket.lean:115]: Great! Would it be easier to have this defined _after_ `Ket.normalize`, so that this definition could be something shorter, like `Ket.normalize (fun _ => 1)` or similar

File: QuantumInfo/Finite/Entanglement.lean [hunk 4]
```diff
@@ -0,0 +1,200 @@
...
+def convex_roof_ENNReal : MState d → ℝ≥0∞ := fun ρ =>
+  ⨅ (n : ℕ+) (e : PEnsemble d (Fin n)) (_ : mix (toMEnsemble e) = ρ), ↑(pure_average_NNReal g e)
+
+/-- Convex roof extension of a function `g : Ket d → ℝ≥0`, defined as the infimum of all pure-state
+ensembles of a given `ρ` of the average of `g` in that ensemble. The term "convex roof" is abbreviated as `co`
+in other theorems and definitions, following the shorthand notation in the literature.
+
+This is valued in the nonnegative real numbers `ℝ≥0` by applying `ENNReal.toNNReal` to `convex_roof_ENNReal`. Hence,
+it should be used in proofs alongside `co_ne_top`. -/
+def convex_roof : MState d → ℝ≥0 := ENNReal.toNNReal ∘ convex_roof_ENNReal g
```
Comment (Timeroot) [inline QuantumInfo/Finite/Entanglement.lean:65]: I would put this after `co_ne_top`, and then it can be `def convex_roof : MState d → ℝ≥0 := fun x => (convex_roof_ENNReal g x).untop (co_ne_top g x)`. In general `untop` has slightly better properties than `ENNReal.toNNReal`, like you know that ordering is always respected.

File: QuantumInfo/Finite/MState.lean [hunk 5]
```diff
@@ -305,6 +308,246 @@ instance instUnique [Unique d] : Unique (MState d) where
     simp [Matrix.trace, Unique.eq_default] at h₁ h₂ ⊢
     exact h₁.trans h₂.symm
 
+/-- There exists a mixed state for every nonempty `d`.
+Here, the maximally mixed one is chosen. -/
+instance instInhabited [Nonempty d] : Inhabited (MState d) where
+  default := uniform
+
+section ensemble
```
Comment (Timeroot) [inline QuantumInfo/Finite/MState.lean:316]: I think ensemble stuff should go in a new file. You can put `MEnsemble` and `PEnsemble` together if you want, but I don't think they make too much sense in `MState.lean`.

**Review by Timeroot — COMMENTED** [review]
I left my notes. Looks great! Thank you both for the nice new definitions + properties, and also filling in some sorries! :)

File: ClassicalInfo/Distribution.lean (hunk 1 above)
Comment (Megaleo) [reply ClassicalInfo/Distribution.lean:191]: I wrote it more for completeness sake than anything, and I don't think they're used later.

File: QuantumInfo/Finite/Braket.lean (hunk 3 above)
Comment (Megaleo) [reply QuantumInfo/Finite/Braket.lean:115]: Good catch! Will do it.

**Comment by Megaleo** [comment]
Thanks for the careful review! I've applied all the changes you suggested.
